US05043248
Synthesis of N,N'-distearyl-p-phenylenediamine
A mixture of 15.6 g of p-phenylenediamine, 15.5 g of stearyl bromide, and 1.96 g of powdered sodium hydroxide was heated to 140° to 150° C. for about 3.5 hours with stirring under nitrogen gas stream. After the reaction was over, 50 ml of water was poured to the reaction mixture and black-purple solids thus formed were recovered by filtration. When the solids were washed with water, ethanol, and methylene chloride and filtered to provide about 5.8 g of a pink powder of N,N'-distearyl-p-phenylenediamine. The structure was confirmed by 1HNMR, IR spectra, and elemental analysis.

reactant | p-phenylenediamine | 15.6 g | C1=CC(=CC=C1N)N | C6H8N2
reactant | stearyl bromide | 15.5 g | C(CCCCCCCCCCCCCCCCC)Br | C18H37Br
reactant | sodium hydroxide | 1.96 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
product | N,N'-distearyl-p-phenylenediamine | about 5.8 g | C(CCCCCCCCCCCCCCCCC)NC1=CC=C(C=C1)NCCCCCCCCCCCCCCCCCC | C42H80N2
